US06080870
Step A: (N-tert-butyl)-4-biphenylcarboxamide
To a 1 L round bottomed flask with a stirring bar and a drying tube was added 4-biphenylbenzoic acid (35.14 g, 177.26 mmol), CH2Cl2 (500 mL) and oxalyl chloride (17.18 mL, 196.96 mmol). To this well stirred mixture was added 10 drops of DMF. This mixture was stirred at ambient temperature for 5 h. The solvent and excess oxalyl chloride were removed in vacuo and the solid acid chloride was redissolved in fresh CH2Cl2 (500 mL). This solution was cooled to 0° C. and tert-butylamine (23.28 mL, 221.58 mmol), Et3N (30.88 mL, 221.58 mmol) and 4-DMAP (0.20 g) were added sequentially. The cooling bath was allowed to expire and the mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with an equal volume of CHCl3 and this solution was washed successively with 1N HCl, NaHCO3 solution and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an off white solid. This material was triturated with Et2O (100 mL) and collected on a frit and dried in vacuo to afford the title compound.

reactant | 4-biphenylbenzoic acid | 177.26 mmol, 35.14 g | C1(=CC=C(C=C1)C1=CC=CC=C1C(=O)O)C1=CC=CC=C1 | C19H14O2
reactant | oxalyl chloride | 196.96 mmol, 17.18 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butylamine | 221.58 mmol, 23.28 mL | C(C)(C)(C)N | C4H11N
reactant | Et3N | 221.58 mmol, 30.88 mL | CCN(CC)CC | C6H15N
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
catalyst | 4-DMAP | 0.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | (N-tert-butyl)-4-biphenylcarboxamide | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H19NO
